US08975400B2
3-(((1-isopropyl-5-oxo-1,2,3,5-tetrahydroimidazo[1,2-c]pyrimidin-7-yl)oxy)methyl)benzonitrile
Prepared in a manner similar to that described for E1 using sodium hydride (17.97 mg, 0.449 mmol) in THF (4 mL), 3-(hydroxymethyl)benzonitrile (59.8 mg, 0.449 mmol) and 7-chloro-1-isopropyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one (80 mg, 0.374 mmol) in DMF (2.00 mL).

reactant | sodium hydride | 0.449 mmol, 17.97 mg | [H-].[Na+]
reactant | 3-(hydroxymethyl)benzonitrile | 0.449 mmol, 59.8 mg | OCC=1C=C(C#N)C=CC1 | C8H7NO
reactant | 7-chloro-1-isopropyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one | 0.374 mmol, 80 mg | ClC=1C=C2N(C(N1)=O)CCN2C(C)C | C9H12ClN3O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | DMF | 2.00 mL | CN(C)C=O | C3H7NO
product | 3-(((1-isopropyl-5-oxo-1,2,3,5-tetrahydroimidazo[1,2-c]pyrimidin-7-yl)oxy)methyl)benzonitrile | C(C)(C)N1CCN2C(N=C(C=C21)OCC=2C=C(C#N)C=CC2)=O | C17H18N4O2
